* C:\EDesign344\GitRepo\LTSpice\E344_23782684_A1\Draft1.asc
V2 N006 0 SINE(6.05 0.17 10)
V3 N002 0 5
V4 P001 0 5
R1 N007 N006 98k
R2 0 N007 98k
XU1 N007 N001 P001 0 N001 LTC6078
XU2 N005 N003 N002 0 N004 LTC6078
R4 N004 N005 36.9k
R3 N005 N001 1100
R5 N005 0 2.1k
V1 N003 0 2
.tran 0 1 0 0.1
.lib LTC5.lib
.backanno
.end
