* C:\Users\camer\Downloads\LTSpice - Template\LTSpice - Template\E344_23782684_A3.asc
V5 N001 0 5
RSense5V N001 5V 1µ
V1 b0 0 PWL file=b0PWL.csv
V2 b1 0 PWL file=b1PWL.csv
V3 b2 0 PWL file=b2PWL.csv
V4 b3 0 PWL file=b3PWL.csv
R3 SpeedCmd_analog 0 100k
XU1 N003 N002 5V 0 SpeedCmd_analog LTC6078
R1 N002 b0 160k
R2 N002 b1 80k
R4 N002 b2 40k
R5 N002 b3 20k
R6 SpeedCmd_analog N002 9k
R7 N003 0 180k
R8 N003 5V 330k
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only 5V for power
* =============================\nREPLACE WITH YOUR DETAILS\nC. Oosthuysen., 23782684\n=============================
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
* PLEASE WAIT FOR YOUR SIMULATION TO FINISH BEFORE SUBMITTING.
.tran 0 {transtop} 0
.include A3cfg.txt
* 5V supply
* 4-bit 3.3V\ntorque command\n(input to your circuit)
* Analogue speed command\n(output from your circuit)
.lib LTC5.lib
.backanno
.end
